US06303612B1
Methyl 2-(3-(3-Chloropropoxy)phenylsulfanyl)benzoate
It was prepared from methyl 2-(3-hydroxyphenylsulfanyl)-benzoate and 1-bromo-3-chloropropane as an oil in a yield of 85.0%. For C17H17ClO3S (336.8) calculated: 60.62% C, 5.09% H, 10.52% Cl, 9.52% S; found: 60.46% C, 5.09% H, 10.35% Cl, 9.42% S.

reactant | methyl 2-(3-hydroxyphenylsulfanyl)-benzoate | OC=1C=C(C=CC1)SC1=C(C(=O)OC)C=CC=C1 | C14H12O3S
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | Methyl 2-(3-(3-Chloropropoxy)phenylsulfanyl)benzoate | yield of 85.0% | ClCCCOC=1C=C(C=CC1)SC1=C(C(=O)OC)C=CC=C1 | C17H17ClO3S
